*********************************************************************************************************
*    .___  ___.  _______ .___  ___. .______       __       _______..___________.  ______   .______      *
*    |   \/   | |   ____||   \/   | |   _  \     |  |     /       ||           | /  __  \  |   _  \     *
*    |  \  /  | |  |__   |  \  /  | |  |_)  |    |  |    |   (----``---|  |----`|  |  |  | |  |_)  |    *
*    |  |\/|  | |   __|  |  |\/|  | |      /     |  |     \   \        |  |     |  |  |  | |      /     *
*    |  |  |  | |  |____ |  |  |  | |  |\  \----.|  | .----)   |       |  |     |  `--'  | |  |\  \----.*
*    |__|  |__| |_______||__|  |__| | _| `._____||__| |_______/        |__|      \______/  | _| `._____|*
*                                                                                                       *
* *******************************************************************************************************                                                                                                   


**********************************************************************************************************
* Biolek Model
***********************************************************************************************************
* simulator lang=spectre
* include "biolek.scs"

* VDD1 vcc 0 vsource type=pwl wave=[0 1u 50n 1u 50.01n 1 100n 1 100.01n 1u 150n 1u 150.01n -1 200n -1 200.01n 1u]
* VSS1 vss 0 vsource dc=0
* XMEMRISTOR vcc vss 0 biolek


**********************************************************************************************************
* Pershin and Di Ventra - Current Threshold
***********************************************************************************************************
* simulator lang=spectre
* include "pershin-current-threshold/memristor.scs"

* parameters
* + vmem=1.0
* + method=traponly

* VDD2 vcc 0 vsource type=pwl wave=[0 1u 50n 1u 50.01n vmem 100n vmem 100.01n 1u 150n 1u 150.01n -vmem 200n -vmem 200.01n 1u]
* VSS2 vss 0 vsource dc=0
* XMEMRISTOR vcc vss memristor

**********************************************************************************************************
* CSpin - IMTJ
***********************************************************************************************************
* simulator lang=spice
* include "c-spin-imtj/MTJ_model.inc"

* params vmtj=1.0
* **V1 node 0 'vmtj'
* VDD3 vcc 0 vsource type=pwl wave=[0 1u 50n 1u 50.1n vmtj 100n vmtj 100.1n 1u 150n 1u 150.1n -vmtj 200n -vmtj 200.1n 1u]
* XIMTJ vcc 0 MTJ lx=32n ly=96n lz=2.44n Ms0=1210 P0=0.69 alpha=0.0062 Tmp0=358 RA0=5 MA=0 ini=1

**********************************************************************************************************
* CSpin - PMTJ
***********************************************************************************************************
* simulator lang=spectre
* include "c-spin-pmtj/MTJ_model.inc"

* parameters
* + vmtj=1.0
* + method=traponly
* + sim_rtol=1e-4
* + temp_celsius=26.85

* VDD3 vcc 0 vsource type=pwl wave=[0 vmtj 5n vmtj 6n 0 10n 0 11n -vmtj 15n -vmtj 16n 0]
* XPMTJ vcc 0 MTJ lx=65n ly=65n lz=1.48n Ms0=1210 P0=0.69 alpha=0.006 Tmp0=358 RA0=5 MA=1 ini=1 tc=1.5n



**********************************************************************************************************
* Verilog A model - PMTJ
***********************************************************************************************************
simulator lang=spectre
global 0

include "verilog-pmtj/mtj_subcircuit.scs"


parameters 
+ i_dc=0e-6
+ i_pulse_ap2p=-80e-6
+ w_pulse=50e-9
+ input_delay=-2e-9
+ temp_celsius=26.85
+ do_thermal=0
+ do_theta_windowing=0
+ do_fake_thermal=0
+ sim_pivrel=0.1
+ sim_rtol=1e-4
+ sim_atol=1e-8
+ maxstep=1e-12
+ method=traponly

ITRAN0 0 e0 isource type=pwl wave=[0 i_dc 2n -i_pulse_ap2p 52n -i_pulse_ap2p 54n i_dc 104n i_dc 106n i_pulse_ap2p 156n i_pulse_ap2p 158n i_dc 208n i_dc 210n -i_pulse_ap2p 260n -i_pulse_ap2p 262n i_dc]

mtj_ap2p (e0 0 mz 0 0 0) mtj_subcircuit
	+ p_do_thermal=do_thermal
	+ p_do_theta_windowing=do_theta_windowing
	+ p_do_fake_thermal=do_fake_thermal
	+ p_atol=sim_atol

highVoltageOptions options highvoltage=yes bin_relref=yes

simulatorOptions options \
    temp=(temp_celsius) \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 \
    reltol=sim_rtol \


finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile

primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=all subcktprobelvl=3 saveahdlvars=all exportfile="./exported_test.data"
tran_tt tran stop=(300n) write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 \
    method=method \


